US09102591B2
2-chloro-N-(3-cyclopropyl-2-methyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propyl)benzamide
From 2-chlorobenzoic acid and 3-cyclopropyl-2-methyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propan-1-amine.

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 3-cyclopropyl-2-methyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propan-1-amine | C1(CC1)CC(CN)(C=1C=NC(=NC1)C(F)(F)F)C | C12H16F3N3
product | 2-chloro-N-(3-cyclopropyl-2-methyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2CC2)(C=2C=NC(=NC2)C(F)(F)F)C)C=CC=C1 | C19H19ClF3N3O
